US04584290
To a solution of benzhydryl 7-[2-metoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (2 g) in methanol (20 ml) was added conc. hydrochloric acid (0.85 ml) at ambient temperature and the resultant mixture was stirred at 25°-30° C. for 2 hours. Water and ethyl acetate were added to the reaction mixture and the resultant mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. The separated organic layer was evaporated in vacuo to give a yellowish residue. A mixture of this residue and trifuluoroacetic acid (5 ml) containing anisole (1 ml) in dichloromethane (10 ml) was stirred at 5°-10° C. for an hour. The mixture was poured into diisopropyl ether (100 ml) to give precipitate, which was collected by filtration and dissolved in 5% aqueous sodium bicarbonate at pH 5.5. The resulting solution was chromatographed on macropourous non-ionic resin "Diaion-HP-20" and eluted with 20% aqueous solution of isopropyl alcohol. The fractions containing object compound were concentrated and acidified at pH 2.2 with conc. hydrochloric acid to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid (syn isomer) (trans isomer) (0.07 g).

reactant | benzhydryl 7-[2-metoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 2 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H28N6O6S3
reactant | hydrochloric acid | 0.85 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid | 0.07 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)O)C1=O)C=1N=C(SC1)N | C20H18N6O5S3
